US05763437
To a solution of (3RS)-1-[(2-azatricyclo[4.3.1.14,8 ]-undec-2-yl) carbonylmethyl]-3-tert-butoxycarbonylamino-2,3-di-hydro-5-(2-fluorophenyl)-1H-1,4-benzodiazepin-2-one (0.445 g) in nitromethane was treated with hydrogen chloride under stirring at cooling in an ice-bath. The mixture was concentrated in vacuo. The residue was dissolved with ethyl acetate and extracted with 1N hydrochloric acid aqueous solution three times. The combined aqueous layers were alkalined with sodium bicarbonate, extracted with ethyl acetate twice. The extracts were dried over sodium sulfate. Removal of the solvent gave (3RS)-3-amino-1-[(2-azatricyclo[4.3.1.14,8 ]undec-2-yl)carbonylmethyl]-2,3-dihydro-5-(2-fluorophenyl)-1H-1,4-benzodiazepin-2-one (0.265 g), which was used in a following reaction step without further purification.

reactant | (3RS)-1-[(2-azatricyclo[4.3.1.14,8 ]-undec-2-yl) carbonylmethyl]-3-tert-butoxycarbonylamino-2,3-di-hydro-5-(2-fluorophenyl)-1H-1,4-benzodiazepin-2-one | 0.445 g | C12N(CC3CC(CC(C1)C3)C2)C(=O)CN2C(C(N=C(C3=C2C=CC=C3)C3=C(C=CC=C3)F)NC(=O)OC(C)(C)C)=O | C32H37FN4O4
reactant | hydrogen chloride | Cl | ClH
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
product | (3RS)-3-amino-1-[(2-azatricyclo[4.3.1.14,8 ]undec-2-yl)carbonylmethyl]-2,3-dihydro-5-(2-fluorophenyl)-1H-1,4-benzodiazepin-2-one | 0.265 g | NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)CC(=O)N2C1CC3CC(CC(C2)C3)C1)=O | C27H29FN4O2
